US04471105
Into a one-liter 3-necked flask equipped with stirrer, condenser, addition funnel, and thermometer there was charged 500 ml xylene and 100 g. triphenylphosphine. There was slowly added 77 grams of 1,3-dibromopropane to the stirred solution at 130° C. After heating for 20 hours at 130° C., the resulting suspension was cooled and filtered to give 131.2 g of (3-bromopropyl)triphenylphosphonium bromide (M.P. 229°-30° C.).

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,3-dibromopropane | 77 grams | BrCCCBr | C3H6Br2
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (3-bromopropyl)triphenylphosphonium bromide | 131.2 g | [Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H21BrP.BrH/c22-17-10-18-23(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;/h1-9,11-16H,10,17-18H2;1H/q+1;/p-1
